US07381736B2
Iron powder (5.03 g; 56 mmol), water (5 mL) and hydrochloric acid (0.1 mL; 36 mmol) are added consecutively to a solution of methyl 2-[4-(3-nitrophenoxy)phenyl]acetate (1.3 g; 4.5 mmol) in ethanol (20 mL). After stirring at 95° C. for four hours, the solid is filtered while still hot and the filtrate is stripped of solvent in vacuo to yield methyl 2-[4-(3-aminophenoxy)phenyl]acetate as an oil. Yield: 1.1 g (95%).

reactant | water | 5 mL | O | H2O
reactant | hydrochloric acid | 36 mmol, 0.1 mL | Cl | ClH
reactant | methyl 2-[4-(3-nitrophenoxy)phenyl]acetate | 4.5 mmol, 1.3 g | [N+](=O)([O-])C=1C=C(OC2=CC=C(C=C2)CC(=O)OC)C=CC1 | C15H13NO5
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | Iron | 56 mmol, 5.03 g | [Fe] | Fe
product | methyl 2-[4-(3-aminophenoxy)phenyl]acetate | NC=1C=C(OC2=CC=C(C=C2)CC(=O)OC)C=CC1 | C15H15NO3
